US08017630B2
(4-Dimethylamino-4-phenylcyclohexyl)acetic acid methyl ester hydrochloride
Palladium-on-charcoal (5%, 90 mg) was added to a solution of (4-dimethylamino-4-phenylcyclohexylidene)acetic acid methyl ester hydrochloride (1.79 g, 5.77 mmol) in methanol. The reaction mixture was hydrogenated at RT under a pressure of 3 bar for 5 h. The catalyst was separated off over Celite and the filtrate was concentrated. The product was thereby isolated as a colourless, oily compound in a quantitative yield (1.79 g).

reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid methyl ester hydrochloride | 5.77 mmol, 1.79 g | Cl.COC(C=C1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O
solvent | methanol | CO | CH4O
catalyst | Palladium-on-charcoal | 90 mg | [Pd] | Pd
product | (4-Dimethylamino-4-phenylcyclohexyl)acetic acid methyl ester hydrochloride | quantitative yield | Cl.COC(CC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | InChI=1S/C17H25NO2.ClH/c1-18(2)17(15-7-5-4-6-8-15)11-9-14(10-12-17)13-16(19)20-3;/h4-8,14H,9-13H2,1-3H3;1H
